US09062070B2
Step F: (3S,9aS)-3-(3-Cyano-4-fluoro-2-methyl-phenyl)-hexahydro-pyrazino[2,1-c][1,4]oxazine-8-carboxylic acid tert-butyl ester
To a 1 L 3 neck RB was charged 5% Pd/CaCO3 (10.0 g., 4.02 mmol), MeOH (405 mL), and (S)-3-(3-Cyano-4-fluoro-2-methyl-phenyl)-6,7,9,9a-tetrahydro-1H-pyrazino[2,1-c][1,4]oxazine-8-carboxylic acid tert-butyl ester (15.0 g., 40.2 mmol). The solution was sparged with N2 for 5 min, then put under an atmosphere of hydrogen with balloon pressure and warmed to 40° C. with stirring. After 38 h, HPLC shows full conversion of the olefin, with a 5:1 cis:trans ratio of diastereomers. The suspension was cooled to room temperature, filtered through a pad of Celite and concentrated. The residue was purified via column chromatography (60-100% EtOAc/Hexanes, linear gradient), to provide the title compound. 1H NMR (400 MHz, CDCl3): δ 8.18 (m, 1H), 7.03 (t, J=7.9 Hz, 1H), 4.87 (s, 1H), 4.10-3.60 (m, 2H), 3.56 (d, J=10.5 Hz, 1H), 3.25-2.88 (m, 3H), 2.80-2.35 (m, 8H), 1.50 (s, 9H).

reactant | (S)-3-(3-Cyano-4-fluoro-2-methyl-phenyl)-6,7,9,9a-tetrahydro-1H-pyrazino[2,1-c][1,4]oxazine-8-carboxylic acid tert-butyl ester | 40.2 mmol, 15.0 g | C(C)(C)(C)OC(=O)N1C[C@H]2COC(=CN2CC1)C1=C(C(=C(C=C1)F)C#N)C | C20H24FN3O3
catalyst | Pd CaCO3 | 4.02 mmol, 10.0 g | [Pd].C(=O)([O-])[O-].[Ca+2]
solvent | MeOH | 405 mL | CO | CH4O
product | (3S,9aS)-3-(3-Cyano-4-fluoro-2-methyl-phenyl)-hexahydro-pyrazino[2,1-c][1,4]oxazine-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]2CO[C@H](CN2CC1)C1=C(C(=C(C=C1)F)C#N)C | C20H26FN3O3
